2112-02-23 07:18:00 Physician Resident Progress Note
Chief Complaint: 60F with metastatic RCC presented with SBO
   24 Hour Events:
   Dry by labs so gave IVF over course of day and night
   Much feculent material drained from NGT. No BMs yet.
   Family meeting held this AM
 DNR/DNI but maintain current care, no
   surgery
 ARTERIAL LINE - START [**2112-2-22**] 08:10 AM
 EKG - At [**2112-2-22**] 11:51 AM
   History obtained from Medical records
   Allergies:
   Penicillins
   Rash;
   Antibiotics:
   Vancomycin - [**2112-2-22**] 08:17 PM
   Levofloxacin - [**2112-2-22**] 09:17 PM
   Metronidazole - [**2112-2-23**] 02:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-22**] 08:00 AM
   Fentanyl - [**2112-2-22**] 02:00 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2112-2-23**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.8
   HR: 96 (95 - 108) bpm
   BP: 132/94(107){110/82(92) - 311/307(309)} mmHg
   RR: 20 (14 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 75.6 kg
   Height: 65 Inch
             Total In:
                                                                 13,389 mL
                                                                    265 mL
   PO:
             TF:
   IVF:
                                                                 10,589 mL
                                                                    265 mL
   Blood products:
   Total out:
                                                                  4,350 mL
                                                                    195 mL
   Urine:
                                                                    350 mL
                                                                     95 mL
   NG:
                                                                  4,000 mL
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  9,039 mL
                                                                     70 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 259
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 95%
   ABG: 7.42/45/115/27/4
   Ve: 9.2 L/min
   PaO2 / FiO2: 287
   Physical Examination
   General Appearance: Overweight / Obese, pale, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : L side, few)
   Abdominal: Soft, Distended, Tender: patient grimaces with deep
   palpation, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   NGT with brown drainage, foley with concentrated urine
   Labs / Radiology
   211 K/uL
   9.6 g/dL
   88 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.1 mEq/L
   18 mg/dL
   104 mEq/L
   140 mEq/L
   30.6 %
   6.0 K/uL
        [image002.jpg]
   UA spec [**Last Name (un) **] >1.05 urine Osms 889
   CXR: official read pending, increased L sided effusion/infiltrate
   Fingersticks 98-134
   [**2-22**] micro
   Sputum 1+ GNR, 1+ GPC in pair, 1+ budding yeast
                             [**2112-2-22**]  01:35 AM
                             [**2112-2-22**]  02:26 AM
                             [**2112-2-22**]  08:08 AM
                             [**2112-2-22**]  09:48 AM
                             [**2112-2-22**]  10:04 AM
                             [**2112-2-22**]  02:20 PM
                             [**2112-2-23**]  04:32 AM
                             [**2112-2-23**]  05:38 AM
   WBC
   5.5
   5.5
   6.0
   Hct
   31.5
   30.5
   30.6
   Plt
   [**Telephone/Fax (3) 853**]
   Cr
   0.8
   0.8
   TCO2
   33
   33
   34
   31
   30
   Glucose
   99
   101
   88
   Other labs: PT / PTT / INR:19.4/33.7/1.8, Differential-Neuts:75.0 %,
   Band:9.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.7 mmol/L, Ca++:8.9 mg/dL, Mg++:1.5 mg/dL,
   PO4:2.9 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Last blood gas shows adequate oxygenation and ventilation. Will wean as
   tolerated to PSV today. High RSBI this AM
 defer extubation today.
   Suspect respiratory decompensation in ED due to distended abdomen
   limiting diaphagmatic excursion and possible aspiration
   pneumonia/pneumonitis
 patient
s pulmonary reserve limited, has lung
   mets and on home O2. Continue levofloxacin, flagyl, vancomycin
   empirically for ?pneumonia.
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   Large volume output from NG yesterday without BM yet. No surgery per
   family. Continue NGT, aggressive fluid replacement, replete
   electrolytes as needed.
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   S/p recent avastin
   Oncology team plans family meeting today to discuss prognosis and code
   status
 Pain control
   Start fentanyl patch with fentanyl bolus until loaded. Lighten sedation
   daily to assess pain control
 Oliguria
   Given poor PO, n/v, and SBO likely with significant volume depletion.
   Poor urine output since admission to [**Hospital Unit Name 44**], some response to IVFs
   yesterday.  No evidence of hydronephrosis/hydroureter on CT abdomen
   making obstruction less likely. Continue fluid boluses as needed,
   following O2 sat, to achieve 30cc/hr
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale, glucose adequately
   controlled
   Lines:
   18 Gauge - [**2112-2-22**] 03:00 AM
   20 Gauge - [**2112-2-22**] 03:00 AM
   Arterial Line - [**2112-2-22**] 08:10 AM   Discuss PICC placement with
   family
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code, discuss with family today
   Disposition:ICU
   ------ Protected Section ------
   Code status is DNR/DNI (ok to continue current intubation). No
   pressors, surgery, or central line.
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) 436**], MD
   on:[**2112-2-23**] 13:51 ------

2112-02-24 07:05:00 Physician Resident Progress Note
Chief Complaint: 60F with metastatic RCC admitted with SBO and
   respiratory distress
   24 Hour Events:
   NG tube output turned bloody in AM, though Hct stable
   Received 4L of IVF boluses with continued poor urine output
   Consider ATN vs Obstruction vs Abdominal compartment syndrome
   Check sediment, ordered renal U/S, KUB w/o significant change, bladder
   pressure 11 (not elevated)
   Family unsure about whether to pursue PICC
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2112-2-22**] 09:17 PM
   Vancomycin - [**2112-2-23**] 08:10 PM
   Metronidazole - [**2112-2-24**] 12:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2112-2-23**] 08:00 AM
   Fentanyl - [**2112-2-23**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer
   Flowsheet Data as of  [**2112-2-24**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.5
   HR: 92 (89 - 97) bpm
   BP: 127/90(103){113/72(94) - 135/83,119(117)} mmHg
   RR: 17 (15 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 75.6 kg
   Height: 65 Inch
    Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  5,318 mL
                                                                    266 mL
   PO:
   TF:
   IVF:
                                                                  5,318 mL
                                                                    266 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    104 mL
   Urine:
                                                                    295 mL
                                                                    104 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  4,373 mL
                                                                    162 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: ///23/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese, pale, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Tender: still
   grimaces with deep palpation
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   227 K/uL
   9.9 g/dL
   88 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   18 mg/dL
   106 mEq/L
   141 mEq/L
   31.7 %
   6.6 K/uL
        [image002.jpg]
   Vanco trough 14.1
   CXR: official read pending, minimal change from prior possible decrease
   in L sided opacity
   Renal U/S: read pending
   KUB: persistent SBO
   Micro [**2-19**] sputum 1+ GNRs, 1+ GPCs, 1+ budding yeast; cx pending
   UA 1.04 pH 5.5 urobil 2, bili sm, leuk sm, prot 30, ket 10, bld- nitr-
   leuk-, rbc 12, wbc 3, no bact
                             [**2112-2-22**]  01:35 AM
                             [**2112-2-22**]  02:26 AM
                             [**2112-2-22**]  08:08 AM
                             [**2112-2-22**]  09:48 AM
                             [**2112-2-22**]  10:04 AM
                             [**2112-2-22**]  02:20 PM
                             [**2112-2-23**]  04:32 AM
                             [**2112-2-23**]  05:38 AM
                             [**2112-2-23**]  05:12 PM
                             [**2112-2-24**]  05:06 AM
   WBC
   5.5
   5.5
   6.0
   6.0
   6.6
   Hct
   31.5
   30.5
   30.6
   32.9
   31.7
   Plt
   [**Telephone/Fax (3) 870**]21
   227
   Cr
   0.8
   0.8
   0.8
   TCO2
   33
   33
   34
   31
   30
   Glucose
   99
   101
   88
   88
   Other labs: PT / PTT / INR:19.4/33.7/1.8, Differential-Neuts:75.0 %,
   Band:9.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:Units: %
   Range: 0-4 %, Lactic Acid:1.7 mmol/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Suspect respiratory decompensation in ED due to distended abdomen
   limiting diaphagmatic excursion and possible aspiration
   pneumonia/pneumonitis
 patient
s pulmonary reserve limited, has lung
   mets and on home O2.
   --SBT today as RSBI<105.  ABG shows adequate oxygenation.
   --Continue levofloxacin, flagyl, vancomycin empirically for ?pneumonia
   will also cover GI source ?intrabdominal infection
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   Large volume output from NG yesterday without BM yet. No surgery per
   family. Continue NGT, aggressive fluid replacement, replete
   electrolytes as needed.
 Pain control
   Start fentanyl patch with fentanyl bolus until loaded. Lighten sedation
   daily to assess pain control
 Oliguria
   Poor urine output since admission to [**Hospital Unit Name 44**], some response to IVFs
   initially.
   Given poor PO, n/v, and SBO likely with significant volume depletion.
   Consider also ATN.
   No evidence of hydronephrosis/hydroureter on CT abdomen making
   obstruction less likely.
   Continue fluid boluses as needed, following O2 sat, to achieve 30cc/hr
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   S/p recent avastin
   Oncology team plans family meeting today to discuss prognosis and code
   status
   ICU Care
   Nutrition:  NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2112-2-22**] 03:00 AM
   20 Gauge - [**2112-2-22**] 03:00 AM
   Arterial Line - [**2112-2-22**] 08:[**Street Address(2) 875**] PICC today
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI no escalation of care
   Disposition:ICU

2112-02-24 10:42:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, small bowel obstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Discussion with family around PICC line
   Evaluation of oliguria
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2112-2-22**] 09:17 PM
   Vancomycin - [**2112-2-24**] 07:30 AM
   Metronidazole - [**2112-2-24**] 09:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2112-2-24**] 08:00 AM
   Other medications:
   PPI, SQI, duragesic,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-24**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (96.9
   HR: 90 (89 - 97) bpm
   BP: 115/82(94){113/72(94) - 135/83,119(288)} mmHg
   RR: 17 (16 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 79.9 kg (admission): 75.6 kg
   Height: 65 Inch
   Bladder pressure: 11 (11 - 11) mmHg
   Total In:
                                                                  5,318 mL
                                                                    649 mL
   PO:
   TF:
   IVF:
                                                                  5,318 mL
                                                                    649 mL
   Blood products:
   Total out:
                                                                    945 mL
                                                                    119 mL
   Urine:
                                                                    295 mL
                                                                    119 mL
   NG:
                                                                    650 mL
   Stool:
   Drains:
   Balance:
                                                                  4,373 mL
                                                                    530 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 103
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 95%
   ABG: ///23/
   Ve: 9.9 L/min
   Physical Examination
   Sedated but appears comfortable.
   Shoulder remains in sling.
   Heart is regular.
   Lungs are coarse.
   Abdomen is nontender; mildly distended.
   Some edema.
   Labs / Radiology
   9.9 g/dL
   227 K/uL
   88 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.7 mEq/L
   18 mg/dL
   106 mEq/L
   141 mEq/L
   31.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2112-2-22**]  01:35 AM
                             [**2112-2-22**]  02:26 AM
                             [**2112-2-22**]  08:08 AM
                             [**2112-2-22**]  09:48 AM
                             [**2112-2-22**]  10:04 AM
                             [**2112-2-22**]  02:20 PM
                             [**2112-2-23**]  04:32 AM
                             [**2112-2-23**]  05:38 AM
                             [**2112-2-23**]  05:12 PM
                             [**2112-2-24**]  05:06 AM
   WBC
   5.5
   5.5
   6.0
   6.0
   6.6
   Hct
   31.5
   30.5
   30.6
   32.9
   31.7
   Plt
   [**Telephone/Fax (3) 870**]21
   227
   Cr
   0.8
   0.8
   0.8
   TCO2
   33
   33
   34
   31
   30
   Glucose
   99
   101
   88
   88
   Other labs: PT / PTT / INR:19.4/33.7/1.8, Differential-Neuts:75.0 %,
   Band:9.0 %, Lymph:9.0 %, Mono:7.0 %, Lactic Acid:1.7 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   60 year old woman with metastatic renal cell cancer now with
   respiratory failure (?secondary to aspiration) and small bowel
   obstruction.
   Her goals of care are key.  After discussion with the family, we have
   planned to not escalate intensity of care.  However, there is no sign
   that her bowel obstruction has improved.
   We will ask interventional radiology to place a PICC line today.  I do
   not view this as escalation of care; rather, I am very concerned that
   we may lose IV access and be unable to control pain, anxiety, and
   dyspnea.
   Her oliguria persists; evaluation makes abdominal compartment syndrome
   unlikely.  Her response to fluids has been equivocal, but her
   creatinine has not risen.  This may indicate that her obligate urine
   output is low.
   PROBLEMS
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 Oligura
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:  adequate
   Lines:
   18 Gauge - [**2112-2-22**] 03:00 AM
   20 Gauge - [**2112-2-22**] 03:00 AM
   Arterial Line - [**2112-2-22**] 08:10 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2112-02-25 07:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2112-2-24**] 11:29 AM
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2112-2-24**] 01:12 PM
 PICC LINE - START [**2112-2-24**] 05:00 PM
 ANGIOGRAPHY - At [**2112-2-24**] 05:12 PM
   Urine output still borderline despite IVFs though continues with large
   volume output from NGT
   Had PICC placed
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2112-2-24**] 08:24 PM
   Vancomycin - [**2112-2-24**] 10:11 PM
   Metronidazole - [**2112-2-24**] 11:53 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2112-2-24**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-25**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.6
C (96.1
   HR: 97 (86 - 97) bpm
   BP: 105/74(85){94/69(78) - 127/100(288)} mmHg
   RR: 31 (0 - 38) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 91.3 kg (admission): 75.6 kg
   Height: 65 Inch
             Total In:
                                                                  3,537 mL
                                                                  1,202 mL
   PO:
             TF:
   IVF:
                                                                  3,537 mL
                                                                  1,202 mL
   Blood products:
   Total out:
                                                                  2,047 mL
                                                                    140 mL
   Urine:
                                                                    347 mL
                                                                    140 mL
   NG:
                                                                  1,700 mL
   Stool:
   Drains:
   Balance:
                                                                  1,490 mL
                                                                  1,062 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 340 (340 - 450) mL
   PS : 15 cmH2O
   RR (Spontaneous): 31
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   SpO2: 92%
   ABG: 7.40/40/94.[**Numeric Identifier 128**]/23/Units: mEq/L
   Ve: 9.7 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Sedated, not responding to verbal or physical stimuli
   ET tube in place, MMM
   S1, S2, regular, no murmur
   Lungs clear b/l
   Abd distended, no BS.  Pt does not react to palpation.
   Ext warm with DP +2 b/l.
   Labs / Radiology
   185 K/uL
   9.7 g/dL
   87 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   15 mg/dL
   109 mEq/L
   142 mEq/L
   30.7 %
   5.3 K/uL
        [image002.jpg]
                             [**2112-2-22**]  09:48 AM
                             [**2112-2-22**]  10:04 AM
                             [**2112-2-22**]  02:20 PM
                             [**2112-2-23**]  04:32 AM
                             [**2112-2-23**]  05:38 AM
                             [**2112-2-23**]  05:12 PM
                             [**2112-2-24**]  05:06 AM
                             [**2112-2-24**]  10:27 AM
                             [**2112-2-25**]  04:24 AM
                             [**2112-2-25**]  04:42 AM
   WBC
   5.5
   5.5
   6.0
   6.0
   6.6
   5.3
   Hct
   31.5
   30.5
   30.6
   32.9
   31.7
   30.7
   Plt
   [**Telephone/Fax (3) 870**]21
   227
   185
   Cr
   0.8
   0.8
   0.8
   0.6
   TCO2
   31
   30
   27
   26
   Glucose
   101
   88
   88
   87
   Other labs: PT / PTT / INR:15.9/28.5/1.4, Differential-Neuts:75.0 %,
   Band:9.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:397 mg/dL, Lactic Acid:1.7 mmol/L, Ca++:8.1
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Sputum Cx [**2-22**]:
GRAM STAIN (Final [**2112-2-22**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA.
      STAPH AUREUS COAG +.    SPARSE GROWTH.
      GRAM NEGATIVE ROD(S).    SPARSE GROWTH.
            ? OF TWO COLONIAL MORPHOLOGIES.
   Renal US [**2-24**]:
   No evidence of left renal hydronephrosis.
   CXR [**2-24**]:
   1. Interval retraction of endotracheal tube.  Advancement by 2-3 cm is
   recommended.
   2. Interval improvement in pulmonary edema.
   Assessment and Plan
   60yo woman with metastatic RCC admitted with respiratory failure and
   SBO.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   In setting of poor baseline pulmonary function, restrictive lung
   disease due to SBO, and possible pneumonia.
   -          do not anticipate that it will be possible to extubate her
   in setting of continued SBO
   -          continue vanc, levo, flagyl for possible pneumonia
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   -          continues to have large volume of output from NG tube, no
   bowel sounds
   -          not a surgical candidate given family wishes
   -          continue IV fluids and electrolyte repletion PRN
   -          broad spectrum antibiotics for coverage of possible bowel
   source of infection
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   -          s/p avastin
   -          given poor prognosis and continued SBO with oliguria, will
   contact [**Name (NI) **] [**Last Name (NamePattern1) 897**] from Onc, who the family know
   -          will hold family meeting to address goals of care [**2-26**] at
   4pm; appreciate Dr. [**Last Name (STitle) 897**] involvement
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):
   -          on fentanyl patch
   -          bolus with fentanyl if needed
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Oliguria; patient has single kidney:
   Cr still normal, so unlikely to be ATN
   No evidence for abdominal compartment syndrome (bladder pressure normal
   [**2-23**])
   No evidence for obstruction on renal US
   Will continue fluids for time being, though suspect that renal function
   will continue to decline
   ICU Care
   Nutrition: NPO
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2112-2-22**] 03:00 AM
   Arterial Line - [**2112-2-22**] 08:10 AM
   PICC Line - [**2112-2-24**] 05:00 PM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: PPI
   VAP:  mouth care, HOB elevation, RSBI
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI with no escalation of care
   Disposition:ICU

2112-02-25 20:15:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, small bowel obstruction
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2112-2-24**] 11:29 AM
 UNPLANNED LINE/CATHETER REMOVAL (NON-PATIENT INITATED) - At
   [**2112-2-24**] 01:12 PM
 PICC LINE - START [**2112-2-24**] 05:00 PM
 ANGIOGRAPHY - At [**2112-2-24**] 05:12 PM
   Oliguria persists; large NG output.
   Patient unable to provide history: Unresponsive, intubated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2112-2-24**] 08:24 PM
   Vancomycin - [**2112-2-25**] 09:07 AM
   Metronidazole - [**2112-2-25**] 04:00 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2112-2-25**] 08:00 AM
   Pantoprazole (Protonix) - [**2112-2-25**] 08:08 AM
   Other medications:
   per [**Month (only) **] (reviewed at rounds)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-25**] 08:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 115 (89 - 115) bpm
   BP: 116/112(113){88/70(83) - 143/112(232)} mmHg
   RR: 27 (0 - 43) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 75.6 kg
   Height: 65 Inch
             Total In:
                                                                  3,537 mL
                                                                  3,230 mL
   PO:
             TF:
   IVF:
                                                                  3,537 mL
                                                                  3,230 mL
   Blood products:
   Total out:
                                                                  2,047 mL
                                                                    383 mL
   Urine:
                                                                    347 mL
                                                                    233 mL
   NG:
                                                                  1,700 mL
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,490 mL
                                                                  2,847 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 434 (340 - 434) mL
   RR (Set): 18
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 111
   PIP: 29 cmH2O
   Plateau: 25 cmH2O
   SpO2: 95%
   ABG: 7.46/31/104/23/Units: mEq/L
   Ve: 11.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.7 g/dL
   185 K/uL
   87 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.3 mEq/L
   15 mg/dL
   109 mEq/L
   142 mEq/L
   30.7 %
   5.3 K/uL
        [image002.jpg]
                             [**2112-2-22**]  10:04 AM
                             [**2112-2-22**]  02:20 PM
                             [**2112-2-23**]  04:32 AM
                             [**2112-2-23**]  05:38 AM
                             [**2112-2-23**]  05:12 PM
                             [**2112-2-24**]  05:06 AM
                             [**2112-2-24**]  10:27 AM
                             [**2112-2-25**]  04:24 AM
                             [**2112-2-25**]  04:42 AM
                             [**2112-2-25**]  06:30 PM
   WBC
   5.5
   6.0
   6.0
   6.6
   5.3
   Hct
   30.5
   30.6
   32.9
   31.7
   30.7
   Plt
   [**Telephone/Fax (3) 900**]27
   185
   Cr
   0.8
   0.8
   0.6
   TCO2
   31
   30
   27
   26
   23
   Glucose
   88
   88
   87
   Other labs: PT / PTT / INR:15.9/28.5/1.4, Differential-Neuts:75.0 %,
   Band:9.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:397 mg/dL, Lactic Acid:1.7 mmol/L, Ca++:8.1
   mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   60 year old woman with metastatic RCC admitted with respiratory failure
   and small bowel obstruction.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   - no evidence that she is making progress
   - continue ABX for possible pneumonia
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   -  continues to have large volume of output from NG tube, no bowel
   sounds
   -  family does not wish to pursue surgery
   - keep hydrated
   -antibiotics
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   -    s/p avastin
   -    appreciate oncology's help
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):
   - fentanyl patch and bolus prn
   Oliguria without evidence for ARF
   ICU Care
   Nutrition:
   Comments: Will discuss TPN at family meeting tomorrow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2112-2-22**] 03:00 AM
   Arterial Line - [**2112-2-22**] 08:10 AM
   PICC Line - [**2112-2-24**] 05:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2112-02-26 08:00:00 Physician Resident Progress Note
Chief Complaint: SBO, respiratory distress
   24 Hour Events:
   Urine output remains poor
   Transiently had bowel sounds overnight
   Switched from PS to AC b/c of tachypnea
   Able to nod/interact with family off propofol
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2112-2-25**] 08:00 PM
   Levofloxacin - [**2112-2-25**] 09:00 PM
   Metronidazole - [**2112-2-26**] 01:00 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2112-2-25**] 08:00 AM
   Pantoprazole (Protonix) - [**2112-2-25**] 08:08 AM
   Fentanyl - [**2112-2-26**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-26**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 97 (97 - 115) bpm
   BP: 99/88(94){88/70(76) - 143/112(114)} mmHg
   RR: 22 (0 - 43) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 75.6 kg
   Height: 65 Inch
             Total In:
                                                                  4,172 mL
                                                                  1,196 mL
   PO:
             TF:
   IVF:
                                                                  4,172 mL
                                                                  1,196 mL
   Blood products:
   Total out:
                                                                    428 mL
                                                                    686 mL
   Urine:
                                                                    278 mL
                                                                     86 mL
   NG:
                                                                    150 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  3,744 mL
                                                                    512 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 27 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.46/31/104/23/Units: mEq/L
   Ve: 11 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Intubated, sedated, not responding to verbal or physical stimuli
   S1, S2, regular, no murmur
   Lungs with diminished BS at bases
   Abd without BS, firm, distended
   No LE edema; DP +2 b/l, pneumoboots in place
   Labs / Radiology
   167 K/uL
   10.3 g/dL
   85 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.2 mEq/L
   14 mg/dL
   108 mEq/L
   139 mEq/L
   32.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2112-2-22**]  02:20 PM
                             [**2112-2-23**]  04:32 AM
                             [**2112-2-23**]  05:38 AM
                             [**2112-2-23**]  05:12 PM
                             [**2112-2-24**]  05:06 AM
                             [**2112-2-24**]  10:27 AM
                             [**2112-2-25**]  04:24 AM
                             [**2112-2-25**]  04:42 AM
                             [**2112-2-25**]  06:30 PM
                             [**2112-2-26**]  05:22 AM
   WBC
   5.5
   6.0
   6.0
   6.6
   5.3
   5.6
   Hct
   30.5
   30.6
   32.9
   31.7
   30.7
   32.6
   Plt
   [**Telephone/Fax (3) 900**]27
   185
   167
   Cr
   0.8
   0.8
   0.6
   0.7
   TCO2
   30
   27
   26
   23
   Glucose
   88
   88
   87
   85
   Other labs: PT / PTT / INR:15.9/28.5/1.4, Differential-Neuts:75.0 %,
   Band:9.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:397 mg/dL, Lactic Acid:1.7 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   60yo woman with metastatic RCC admitted with respiratory failure and
   SBO.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Pt has poor baseline pulmonary function (on home O2), restriction from
   her SBO, and possible pneumonia.
   -          continue treatment for pneumonia with vanc, levo
   -          RSBI < 105, so will do SBT off sedation today to gauge
   respiratory status
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   -          no plan to pursue surgery
   -          continues to have significant output from NG tube
   -          continue flagyl, levo for possible bowel source of infection
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY):
   -          appreciate assistance from patient
s outpatient oncologist
   at family meeting planned for 4pm today
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -          fentanyl patch with fentanyl boluses as needed
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Oliguria
   -          will give 20mg IV lasix today for total body volume overload
   ICU Care
   Nutrition: NPO
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2112-2-22**] 03:00 AM
   Arterial Line - [**2112-2-22**] 08:10 AM
   PICC Line - [**2112-2-24**] 05:00 PM
   Prophylaxis:
   DVT: pneumoboots; start SubQ heparin
   Stress ulcer: PPI
   VAP:  mouth care, HOB elevation
   Comments:
   Communication:  Comments: with husband and daughter
   [**Name (NI) 66**] status: DNR/DNI with no escalation of care
   Disposition: ICU

2112-02-26 11:34:00 Physician Attending Progress Note
Chief Complaint: respiratory failure, SBO
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Back on A/C due to tachypnea.
   Still with substantial NG output
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2112-2-25**] 09:00 PM
   Metronidazole - [**2112-2-26**] 08:06 AM
   Vancomycin - [**2112-2-26**] 09:30 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2112-2-26**] 05:00 AM
   Other medications:
   PPI, SQI, Duragesic,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-26**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 95 (92 - 115) bpm
   BP: 107/76 (89){92/70(76) - 143/112(8,687)} mmHg
   RR: 27 (0 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 75.6 kg
   Height: 65 Inch
             Total In:
                                                                  4,172 mL
                                                                  2,044 mL
   PO:
             TF:
   IVF:
                                                                  4,172 mL
                                                                  2,044 mL
   Blood products:
   Total out:
                                                                    428 mL
                                                                  1,446 mL
   Urine:
                                                                    278 mL
                                                                    146 mL
   NG:
                                                                    150 mL
                                                                  1,300 mL
   Stool:
   Drains:
   Balance:
                                                                  3,744 mL
                                                                    598 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 97%
   ABG: 7.46/31/104/23/Units: mEq/L
   Ve: 10 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: No(t) Well nourished, Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), dimished at bases
   Abdominal: Soft, protuberant
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   167 K/uL
   85 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.2 mEq/L
   14 mg/dL
   108 mEq/L
   139 mEq/L
   32.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2112-2-22**]  02:20 PM
                             [**2112-2-23**]  04:32 AM
                             [**2112-2-23**]  05:38 AM
                             [**2112-2-23**]  05:12 PM
                             [**2112-2-24**]  05:06 AM
                             [**2112-2-24**]  10:27 AM
                             [**2112-2-25**]  04:24 AM
                             [**2112-2-25**]  04:42 AM
                             [**2112-2-25**]  06:30 PM
                             [**2112-2-26**]  05:22 AM
   WBC
   5.5
   6.0
   6.0
   6.6
   5.3
   5.6
   Hct
   30.5
   30.6
   32.9
   31.7
   30.7
   32.6
   Plt
   [**Telephone/Fax (3) 900**]27
   185
   167
   Cr
   0.8
   0.8
   0.6
   0.7
   TCO2
   30
   27
   26
   23
   Glucose
   88
   88
   87
   85
   Other labs: PT / PTT / INR:15.9/28.5/1.4, Differential-Neuts:75.0 %,
   Band:9.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:397 mg/dL, Lactic Acid:1.7 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR approximately stable
   Assessment and Plan
   60 year old woman with metastatic renal cell cancer, respiratory
   failure, small bowel obstruction, and anasarca.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   n        try SBT off of sedation
   n        try Lasix today given anasarca
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   n        Keep NG to suction
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   n        No acute intervention
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   n        Duragesic; prn fentanyl
 OLIGURIA
 stable renal function
   ICU Care
   Nutrition: NPO.  Discuss TPN at family meeting
   Glycemic Control:  good control
   Lines:
   18 Gauge - [**2112-2-22**] 03:00 AM
   Arterial Line - [**2112-2-22**] 08:10 AM
   PICC Line - [**2112-2-24**] 05:00 PM
   Prophylaxis:
   DVT: Boots(begin SQH)
   Stress ulcer: PPI
   VAP: usual care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Family meeting this afternoon with oncology
   Code status: Full code
   Disposition :ICU
   Total time spent:  45 min
   Patient is critically ill

2112-02-27 08:05:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, SBO
   24 Hour Events:
 ARTERIAL LINE - STOP [**2112-2-26**] 02:11 PM
   Family meeting:  made CMO
   Extubated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2112-2-25**] 09:00 PM
   Metronidazole - [**2112-2-26**] 08:06 AM
   Vancomycin - [**2112-2-26**] 09:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-26**] 12:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-27**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 101 (92 - 110) bpm
   BP: 83/48(56){76/46(56) - 121/82(89)} mmHg
   RR: 13 (8 - 240) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 92.5 kg (admission): 75.6 kg
   Height: 65 Inch
             Total In:
                                                                  2,775 mL
                                                                    109 mL
   PO:
             TF:
   IVF:
                                                                  2,775 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  3,138 mL
                                                                     25 mL
   Urine:
                                                                    938 mL
                                                                     25 mL
   NG:
                                                                  2,200 mL
   Stool:
   Drains:
   Balance:
                                                                   -363 mL
                                                                     84 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 1,186 (291 - 1,186) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 5 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   In bed, sedated, not responding to voice or touch.  Appears
   comfortable.
   S1, S2, regular, no murmur.
   Lungs with diminished BS at bases.
   No bowel sounds.  Abd firm and distended.
   +LE edema; feet warm with palpable pulses
   Labs / Radiology
   167 K/uL
   10.3 g/dL
   85 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.2 mEq/L
   14 mg/dL
   108 mEq/L
   139 mEq/L
   32.6 %
   5.6 K/uL
        [image002.jpg]
   PLEASE NOTE THAT PATIENT HAS NO NEW LABS AS SHE IS CMO
                             [**2112-2-22**]  02:20 PM
                             [**2112-2-23**]  04:32 AM
                             [**2112-2-23**]  05:38 AM
                             [**2112-2-23**]  05:12 PM
                             [**2112-2-24**]  05:06 AM
                             [**2112-2-24**]  10:27 AM
                             [**2112-2-25**]  04:24 AM
                             [**2112-2-25**]  04:42 AM
                             [**2112-2-25**]  06:30 PM
                             [**2112-2-26**]  05:22 AM
   WBC
   5.5
   6.0
   6.0
   6.6
   5.3
   5.6
   Hct
   30.5
   30.6
   32.9
   31.7
   30.7
   32.6
   Plt
   [**Telephone/Fax (3) 900**]27
   185
   167
   Cr
   0.8
   0.8
   0.6
   0.7
   TCO2
   30
   27
   26
   23
   Glucose
   88
   88
   87
   85
   Other labs: PT / PTT / INR:15.9/28.5/1.4, Differential-Neuts:75.0 %,
   Band:9.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:397 mg/dL, Lactic Acid:1.7 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   60yo woman with metastatic RCC admitted with SBO and respiratory
   distress.  Now CMO.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          s/p extubation
   -          morphine to relieve sensation of dyspnea
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
   -          continue NG tube to suction to relieve pain
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
   -          not pursuing further treatment
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   -          morphine gtt for pain control
   Assist family with coping as needed.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  not needed
   Lines:
   PICC Line - [**2112-2-24**] 05:00 PM
   20 Gauge - [**2112-2-26**] 10:00 AM
   Prophylaxis:
   DVT: CMO
   Stress ulcer: CMO
   VAP:
   Comments:
   Communication:  Comments: with family
   Code status: Comfort measures only
   Disposition: ICU

2112-02-27 10:00:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2112-2-26**] 02:11 PM
   Made CMO last night, extubated.  On morphine gtt.
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2112-2-25**] 09:00 PM
   Metronidazole - [**2112-2-26**] 08:06 AM
   Vancomycin - [**2112-2-26**] 09:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2112-2-26**] 12:24 PM
   Other medications:
   Morphine gtt
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2112-2-27**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.1
C (97
   HR: 99 (92 - 110) bpm
   BP: 76/48(54){76/46(54) - 121/82(89)} mmHg
   RR: 12 (8 - 240) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.5 kg (admission): 75.6 kg
   Height: 65 Inch
             Total In:
                                                                  2,775 mL
                                                                    127 mL
   PO:
             TF:
   IVF:
                                                                  2,775 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  3,138 mL
                                                                     25 mL
   Urine:
                                                                    938 mL
                                                                     25 mL
   NG:
                                                                  2,200 mL
   Stool:
   Drains:
   Balance:
                                                                   -363 mL
                                                                    102 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 1,186 (291 - 1,186) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 70%
   PIP: 5 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   167 K/uL
   85 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.2 mEq/L
   14 mg/dL
   108 mEq/L
   139 mEq/L
   32.6 %
   5.6 K/uL
        [image002.jpg]
                             [**2112-2-22**]  02:20 PM
                             [**2112-2-23**]  04:32 AM
                             [**2112-2-23**]  05:38 AM
                             [**2112-2-23**]  05:12 PM
                             [**2112-2-24**]  05:06 AM
                             [**2112-2-24**]  10:27 AM
                             [**2112-2-25**]  04:24 AM
                             [**2112-2-25**]  04:42 AM
                             [**2112-2-25**]  06:30 PM
                             [**2112-2-26**]  05:22 AM
   WBC
   5.5
   6.0
   6.0
   6.6
   5.3
   5.6
   Hct
   30.5
   30.6
   32.9
   31.7
   30.7
   32.6
   Plt
   [**Telephone/Fax (3) 900**]27
   185
   167
   Cr
   0.8
   0.8
   0.6
   0.7
   TCO2
   30
   27
   26
   23
   Glucose
   88
   88
   87
   85
   Other labs: PT / PTT / INR:15.9/28.5/1.4, Differential-Neuts:75.0 %,
   Band:9.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:Units: %
   Range: 0-4 %, Fibrinogen:397 mg/dL, Lactic Acid:1.7 mmol/L, Ca++:8.1
   mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   60 y/o F with metastatic renal cell Ca, admitted with SBO.  Did not
   improve with one week of conservative treatment, so made CMO last
   night.  Appears comfortable.  Will continue morphine gtt.
 EDEMA, PERIPHERAL
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 SMALL BOWEL OBSTRUCTION (INTESTINAL OBSTRUCTION, SBO, INCLUDING
   INTUSSUSCEPTION, ADHESIONS)
 CANCER (MALIGNANT NEOPLASM), RENAL (KIDNEY)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2112-2-24**] 05:00 PM
   20 Gauge - [**2112-2-26**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent: 15